US06809199B2
A dichloromethane solution (3 mL) containing 1-tert-butylpiperidin-4-one (COMPOUND PPA-1) (120 mg, 0.77 mmol), benzyl amine (0.17 mL, 1.56 mmol), acetic acid (0.05 mL) and sodium triacetoxy borohydride (246 mg, 1.16 mmol) was stirred for several days. The solution was concentrated and the residue partitioned between aqueous potassium carbonate and ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography using CHCl3/MeOH/NH4OH (87/12/1) as eluent to give N-benzyl-1-tert-butylpiperidin-4-amine. Mass spectrum (ESI) 247 (M+1). 1H NMR (500 MHz, CD3OD): δ 1.09(s, 9H); 1.38-1.48(m, 2H); 1.91-1.97(m, 2H); 2.11-2.18(m, 2H); 2.40-2.48(m, 1H); 3.02-3.08(m, 2H); 3.76(s, 2H); 4.87(s, 1H); 7.21-7.26(m, 1H); 7.29-7.36(m, 4H).

reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | 1-tert-butylpiperidin-4-one | 0.77 mmol, 120 mg | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | benzyl amine | 1.56 mmol, 0.17 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxy borohydride | 1.16 mmol, 246 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
product | N-benzyl-1-tert-butylpiperidin-4-amine | C(C1=CC=CC=C1)NC1CCN(CC1)C(C)(C)C | C16H26N2
